US04123542
A mixture of 4 g. of 2-[2-(4-chlorophenyl)ethyl]-2-methyloxirane, 3.6 g. of 2-chlorothiophenol and 500 mg. of anhydrous potassium carbonate in 50 ml. of acetone is stirred at reflux for approximately 3 hours. The solvent is then evaporated and 200 ml. of ether is added to the residue. The resulting mixture is washed with water (3 × 40 ml.), dried (MgSO4) and evaporated to afford 4-(4-chlorophenyl)-1-(2-chlorophenylthio)-2-methyl-2-butanol which is used directly as described later in the procedure.

reactant | 2-[2-(4-chlorophenyl)ethyl]-2-methyloxirane | ClC1=CC=C(C=C1)CCC1(OC1)C | C11H13ClO
reactant | 2-chlorothiophenol | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 4-(4-chlorophenyl)-1-(2-chlorophenylthio)-2-methyl-2-butanol | ClC1=CC=C(C=C1)CCC(CSC1=C(C=CC=C1)Cl)(O)C | C17H18Cl2OS
